US08703954B2
Synthesis of (8S)-2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine Disulfate
Concentrated sulfuric acid (11.5 μL) was added to a solution of (8S)-2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine (98.09 mg) in ethanol (1 mL), and 1 mL of ethyl acetate was added with stirring at room temperature. Since the oily portion was confirmed on the bottom of the recovery flask, the oily substance was dissolved by ultrasonic treatment. Stirring at room temperature under shading for about 30 minutes resulted in precipitation of a solid. The solid was collected by filtration through a glass filter and dried under reduced pressure at room temperature to obtain 127.94 mg of the title compound as white solid crystals.

reactant | sulfuric acid | 11.5 μL | S(O)(O)(=O)=O | H2O4S
reactant | (8S)-2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine | 98.09 mg | COC1=C(C=CC(=N1)/C=C/C1=NN2C([C@@H](CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)N1C=NC(=C1)C | C25H23F3N6O
reactant | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (8S)-2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine Disulfate | 127.94 mg | S(=O)(=O)(O)OS(=O)(=O)O.COC1=C(C=CC(=N1)/C=C/C1=NN2C([C@@H](CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)N1C=NC(=C1)C | InChI=1S/C25H23F3N6O.H2O7S2/c1-16-14-33(15-29-16)21-11-9-17(30-24(21)35-2)10-12-22-31-23-19(7-5-13-34(23)32-22)18-6-3-4-8-20(18)25(26,27)28;1-8(2,3)7-9(4,5)6/h3-4,6,8-12,14-15,19H,5,7,13H2,1-2H3;(H,1,2,3)(H,4,5,6)/b12-10+;/t19-;/m0./s1
